US04775677
[3-Heptyl-2-(heptylimino)-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 16 from N,N'-diheptylthiourea (18.0 g, 66 mmoles) and acetylenedicarboxylic acid (8.0 g, 66 mmoles). Recrystallization from acetonitrile gave the product (21.5 g), mp 80°-81° C.

reactant | N,N'-diheptylthiourea | 66 mmoles, 18.0 g | C(CCCCCC)NC(=S)NCCCCCCC | C15H32N2S
reactant | acetylenedicarboxylic acid | 66 mmoles, 8.0 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [3-Heptyl-2-(heptylimino)-4-oxo-5-thiazolidinylidene]acetic acid | 21.5 g | C(CCCCCC)N1C(SC(C1=O)=CC(=O)O)=NCCCCCCC | C19H32N2O3S
